US04822814
Preparation of isopropyl 1,3-dithiol-2-ylideneisopropylsulfonylacetate (Compound No. 6) [by Process (a)]
After dropwise addition of 13.5 g of thionyl chloride to a mixture of 32.7 g of 4-hydroxy-1,3-dithiol-2-ylidene-isopropylsulfonylacetate and 100 ml of benzene, the reaction mixture was refluxed for 30 minutes. Subsequent to its cooling, 13.0 g of triethylamine was added to the reaction solution, followed by further reflux for 3 hours. The resultant reaction mixture was cooled. Water was added to the reaction mixture and the resulting organic layer was separated. Upon removal of the solvent by distillation under reduced pressure, 28.3 g of the title compound was obtained as pale brown crystals. Upon recrystallization from a mixed solvent of benzene and n-hexane, they turned to white crystals. Melting point: 124.5°-125° C.

reactant | thionyl chloride | 13.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-1,3-dithiol-2-ylidene-isopropylsulfonylacetate | 32.7 g | OC=1SC(SC1)=C(C(=O)[O-])S(=O)(=O)C(C)C
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | triethylamine | 13.0 g | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | isopropyl 1,3-dithiol-2-ylideneisopropylsulfonylacetate | 28.3 g | S1C(SC=C1)=C(C(=O)OC(C)C)S(=O)(=O)C(C)C | C11H16O4S3
